US04933345
6-benzyloxy-3-(4-carbethoxy-3-isoxazolyl)-4-methoxymethyl-β-carboline;
6-benzyloxy-3-(5-ethoxy-4,5-dihydro-3-isoxazolyl)-4-methoxymethyl-β-carboline with vinyl ethyl ether; melting point: 149°-150° C.,

reactant | 6-benzyloxy-3-(5-ethoxy-4,5-dihydro-3-isoxazolyl)-4-methoxymethyl-β-carboline | C(C1=CC=CC=C1)OC=1C=C2C=3C(=C(N=CC3NC2=CC1)C1=NOC(C1)OCC)COC | C25H25N3O4
reactant | vinyl ethyl ether | C(C)OC=C | C4H8O
product | 6-benzyloxy-3-(4-carbethoxy-3-isoxazolyl)-4-methoxymethyl-β-carboline | C(C1=CC=CC=C1)OC=1C=C2C=3C(=C(N=CC3NC2=CC1)C1=NOC=C1C(=O)OCC)COC | C26H23N3O5
